US07268230B2
Using an analogous procedure to that described for the preparation of the starting material in Example 11, 1-tert-butoxycarbonyl-4-(3-hydroxypropyl)piperazine (432 mg, 1.77 mmol) was reacted with 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-hydroxy-6-methoxyquinazoline (500 mg, 1.47 mmol), (prepared as described for the starting material in Example 7). The product was purified by column chromatography, eluting with 2%-5% methanol/methylene chloride to give tert-butyl 4-[3-(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline-7-yloxy)propyl]piperazine-1-carboxylate (582 mg, 70%).

reactant | 1-tert-butoxycarbonyl-4-(3-hydroxypropyl)piperazine | 1.77 mmol, 432 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCO | C12H24N2O3
reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-7-hydroxy-6-methoxyquinazoline | 1.47 mmol, 500 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)O)C | C18H14FN3O3
product | tert-butyl 4-[3-(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline-7-yloxy)propyl]piperazine-1-carboxylate | 582 mg, 70% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C(=O)OC(C)(C)C)C | C30H36FN5O5
